Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with PMHx of HTN, OSA, afib 
on coumadin who presented to the ED with chest pain and dyspnea. 
He works as a ___ and was using his forklift in ___ 
last night when he became short of breath and started having 
chest pain. He had previously been experiencing a runny-nose, 
cough, and feeling somewhat fatigued the day prior. His son had 
been sick with similar symptoms for weeks prior to this. He went 
home afterwards and was feeling progressively worse with 
difficulty breathing so he was brought in by ambulance to the 
emergency room.
     The patient reports that he has never had previous symptoms 
like this before. No history of heart attacks or heart failure. 
He reported feeling sweaty during the episode. At presentation, 
the patient denied any abdominal pain, nausea, vomiting, 
paresthesias, dysuria. He sleeps flat on his side at home and 
does not usually get short of breath with activity or have chest 
pain with activity.

In the ED, initial VS were: 97.9, 60, 124/70, 18, 95% RA    
Exam notable for: Audible wheezing  
Labs showed: CBC 8.8/13.3/40.2/224, Cr 2.3, BNP 1281, Trp <0.01 
x2, Lactate 1.6   
Imaging showed:

CTA Chest 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Subsegmental atelectasis in the right lower lobe.
3. Mild bronchial wall thickening which is nonspecific and could 
be seen in small airways disease.
4. 4 mm nodule in the right middle lobe. If patient has elevated 
risk factors for lung cancer, chest CT in 12 months can be 
considered. If not, no additional imaging follow-up is 
recommended. This is per ___ guidelines on 
incidentally found pulmonary nodules.
5. Dilated main pulmonary artery measuring 3.6 cm across maximal 
diameter can be secondary to primary pulmonary hypertension. 
 
Received: 
___ 01:41 IH Albuterol 0.083% Neb Soln 1 NEB 
___  
___ 01:41 IH Ipratropium Bromide Neb 1 NEB ___ 
 
___ 02:12 PO Aspirin 243 mg ___  
___ 02:20 IVF  NS  ___ Started  
___ 02:53 IV Atropine Sulfate .5 mg ___  
___ 03:00 IVF  NS 500 mL ___ Stopped (___)  
___ 04:55 IV MethylPREDNISolone Sodium Succ 125 mg 
___  
___ 05:15 IH Albuterol 0.083% Neb Soln 1 NEB 
___  
___ 05:15 IH Ipratropium Bromide Neb 1 NEB ___ 


He was seen by Cardiology in the ED who felt that his chest pain 
was atypical and unlikely to be ischemic but did recommend 
stress testing on a non-urgent basis. He was also having 
episodes of bradycardia in the ED that were felt to be related 
to untreated OSA and vagal tone causing sinus arrest. 

Transfer VS were: 98.2, 56, 123/58, 12, 94% RA   
 
On arrival to the floor, patient confirms the story as above. He 
states that he does not have any kidney problems that he knows 
of but did have a problem ___ years ago when he got very 
dehydrated in the setting of colonoscopy prep. Supposedly this 
normalized afterwards. He does not currently have any chest pain 
and feels his breathing has improved. He continues to have a 
cough.

REVIEW OF SYSTEMS:  
(+)per HPI
10-point review of systems otherwise negative.

 
Past Medical History:
Hypertension
Atrial fibrillation on coumadin
Obstructive sleep apnea (untreated, non-adherent with CPAP)
 
Social History:
___
Family History:
Sister and mother with diabetes.
Son with asthma.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 97.9 127/73 49 20 90% Ra 
GENERAL: Obese gentleman in no apparent distress, laying in bed. 
 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, mucous membranes 
somewhat dry
NECK: obese  
HEART: Irregularly irregular, bradycardic, distant heart sounds 
but normal S1, S2, no appreciable m/r/g
LUNGS: CTAB, no wheezes, rales, rhonchi, occasional coughing
ABDOMEN: obese, nontender in all quadrants, no rebound/guarding  

EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no significant lesions on 
visualized skin  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 97.9 174/75 75 18 91% Ra 
General: Well-appearing man, breathing slightly uncomfortable 
with significant audible wheezing.
HEENT: No conjunctival injection or scleral icterus.
Neck: No cervical lymphadenopathy. No JVD.
Lungs: Faint diffuse expiratory wheezing bilaterally, 
significantly improved from yesterday. No crackles or rhonchi.
CV: Regular rate and rhythm. Normal S1 and S2.
Abdomen: Soft, nontender, obese.
Ext: Warm and well-perfused. No cyanosis or edema.
Neuro: Alert and oriented x3. Moving all extremities 
spontaneously.

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:19AM BLOOD WBC-8.8 RBC-4.49* Hgb-13.3* Hct-40.2 
MCV-90 MCH-29.6 MCHC-33.1 RDW-12.5 RDWSD-41.1 Plt ___
___ 01:19AM BLOOD Neuts-70.1 Lymphs-15.7* Monos-11.4 
Eos-1.8 Baso-0.3 Im ___ AbsNeut-6.18* AbsLymp-1.39 
AbsMono-1.01* AbsEos-0.16 AbsBaso-0.03
___ 01:19AM BLOOD ___ PTT-26.3 ___
___ 01:19AM BLOOD Glucose-113* UreaN-30* Creat-2.3* Na-135 
K-4.5 Cl-97 HCO3-24 AnGap-19
___ 03:54AM BLOOD CK(CPK)-78
___ 01:19AM BLOOD proBNP-1281*
___ 01:19AM BLOOD cTropnT-<0.01
___ 03:54AM BLOOD cTropnT-<0.01
___ 03:54AM BLOOD CK-MB-2
___ 09:32AM BLOOD cTropnT-<0.01
___ 01:19AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.4
___ 01:19AM BLOOD Lactate-1.6

PERTINENT IMAGING
=================
CTA CHEST ___:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Subsegmental atelectasis in the right lower lobe. 
3. Mild bronchial wall thickening which is nonspecific and could 
be seen in small airways disease. 
4. Multiple pulmonary nodules measuring up to 5 mm in the left 
lower lobe 
(3:169).  If patient has elevated risk factors for lung cancer, 
chest CT in 12 months can be considered.  If not, no additional 
imaging follow-up is recommended.  This is per ___ 
___ guidelines on incidentally found pulmonary nodules. 
5. Dilated main pulmonary artery measuring 3.6 cm across maximal 
diameter  can be secondary to primary pulmonary hypertension. 

DISCHARGE LABS
==============
___ 05:00AM BLOOD WBC-9.1 RBC-4.66 Hgb-13.9 Hct-42.2 MCV-91 
MCH-29.8 MCHC-32.9 RDW-12.6 RDWSD-41.5 Plt ___
___ 05:00AM BLOOD ___ PTT-25.9 ___
___ 05:00AM BLOOD Glucose-98 UreaN-26* Creat-0.8 Na-140 
K-4.1 Cl-101 HCO3-29 AnGap-14
___ 05:00AM BLOOD Calcium-9.4 Phos-4.6* Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of HTN, OSA, 
Afib on Coumadin who presented to the ED with sudden onset chest 
pain and dyspnea found to have likely acute bronchitis with 
reactive airways. He was started on treatment with inhalers and 
prednisone burst. He was significantly improving prior to 
discharge. No evidence of acute coronary syndrome or heart 
failure during this hospitalization. He had episodes of 
asymptomatic bradycardia overnight in setting of severe OSA so 
metoprolol and clonidine were discontinued with improvement in 
heart rates. He was able to ambulate without desaturation and 
had appropriate HR compensation with activity. As he was stable 
and respiratory status was continuing to improve he was 
medically cleared for discharge. He will follow up with primary 
___ and has established ___ with Dr. ___ as his cardiologist.

#Acute Bronchitis: Patient presented with dyspnea, wheezing, 
chest pain in the setting of recent viral URI. Negative cardiac 
workup while inpatient. He was treated with prednisone and 
nebulized inhalers, and his respiratory status was significantly 
improved prior to discharge. He will continue prednisone course 
for total five days: Prednisone 40mg PO daily (___). He 
was prescribed Albuterol inhaler and given a spacer. Patient can 
continue Benzonatate 100mg PO TID for cough.

#Sinus Bradycardia: Patient was having asymptomatic sinus 
bradycardia of ___ bpm overnight, most likely secondary to 
severe OSA as well as effects from Metoprolol and Clonidine. 
When these medications were discontinued, his HR mostly 
stabilized with rare bouts of sinus brady. Can consider holter 
monitor for further evaluation as an outpatient.

#Atrial Fibrillation: Patient has not been adherent with 
Coumadin; his INR was 1.2 on admission. He was on telemetry and 
off Metoprolol without any A fib. Given his CHADs VASc score of 
1, we discussed with Dr. ___ agreed to discontinue Coumadin 
and start Aspirin 81mg upon discharge.

#Hypertension: Patient has been on aggressive antihypertensive 
regimen of up to 5 medications in the past, but he has had poor 
adherence to this regimen. During his hospitalization, we 
discontinued Metoprolol and Clonidine given bradycardia and he 
was having rebound hypertension up to SBP 190s. He was 
discharged on Lisinopril and Amlodipine. He will follow up with 
primary ___ and Dr. ___ further adjustments to 
antihypertensive regimen.

#Obstructive sleep apnea: Patient has tried CPAP in the past but 
states that he could not tolerate the discomfort. While 
hospitalized, his overnight O2 sats dropped to ___, 
requiring temporary 2L O2. He will need follow-up sleep study 
and mask re-fitting to find suitable CPAP vs. BiPAP.

#Elevated BNP: BNP 1281 on admission, but patient had no 
clinical or radiologic evidence of volume overload. Furthermore, 
inpatient cardiac workup was negative for acute ischemia. 
Patient will get TTE as outpatient with Dr. ___.

#Acute Kidney Injury: Patient presented with Cr 2.3 likely 
pre-renal from hypovolemia as it readily resolved after fluid 
administration. Discharge Cr 0.8.

#Nocturia: This is a chronic issue for the patient, likely 
secondary to BPH. He was treated with Tamsulosin 0.4mg PO daily.

TRANSITIONAL ISSUES
===================
#CODE: Full, limited trial
#CONTACT: ___ (wife): ___
[ ] Prednisone course: Prednisone 40mg PO daily (___)
[ ] Incidental finding of multiple pulmonary nodules measuring 
up to 5 mm in the left lower lobe (3:169).  If patient has 
elevated risk factors for lung cancer, chest CT in 12 months can 
be considered.  If not, no additional imaging follow-up is 
recommended.  This is per ___ guidelines on 
incidentally found pulmonary nodules. 
[ ] Pleasure ensure follow up with sleep medicine for repeat 
sleep study and mask fit given severe untreated OSA
[ ] Patient will receive TTE as an outpatient with Dr. ___ to 
evaluate for systolic or diastolic dysfunction
[ ] Continue to monitor blood pressures, has history of 
non-adherence, simplified regimen and discontinued unnecessary 
medications, was hypertensive as inpatient following 
discontinuation of clonidine; can consider adding HCTZ as 
clinically indicated if still hypertensive
[ ] Did not tolerate metoprolol due to bradycardia overnight, 
would continue to monitor heart rates given prior paroxysmal 
atrial fibrillation and consider rate control as clinically 
indicated
[ ] Consider holter monitor as outpatient given episodes of 
asymptomatic bradycardia while asleep in setting of severe OSA
[ ] Anticoagulation discontinued given CHADsVASC of 1, consider 
restarting DOAC vs. Coumadin as clinically indicated; of note 
patient has poor adherence
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 7.5 mg PO DAILY16 
2. Hydrochlorothiazide 50 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Doxazosin 1 mg PO HS 
5. Lisinopril 40 mg PO DAILY 
6. amLODIPine 10 mg PO DAILY 
7. CloNIDine 0.2 mg PO TID 
8. Famotidine 20 mg PO BID 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 puff IH Q6H:PRN Disp 
#*1 Inhaler Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*45 Capsule Refills:*0 
4.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0 
5.  Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
6.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
7.  Famotidine 20 mg PO BID  
8.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
=================
Acute Bronchitis
Sinus bradycardia
Hypertension
Acute Kidney Injury

Secondary Diagnoses:
====================
Benign Prostatic Hyperplasia
Obstructive Sleep Apnea
Atrial Fibrillation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking ___ of you here at ___.

Why you were admitted:
- You were admitted after suddenly experiencing shortness of 
breath and chest pain as well as several days of a cold. 
- In our ED, you were found to have inflammation and irritation 
of your airways, most likely from your cold.

What we did while you were here:
- We treated your symptoms with nebulizers and also started you 
on a steroid to help reduce the inflammation and decrease your 
wheezing.
- Your heart rate was running slow while you were in the 
hospital, and we stopped a couple medications that ___ have been 
contributing to this.
- We simplified and narrowed down many of the blood pressure 
medications that you were taking at home. Please see the 
discharge medication list for specific changes.

Your next steps:
- Please continue the Prednisone 40mg tablet daily through 
___.
- You have been discharged with an inhaler and a spacer, which 
you should use if you are having shortness of breath or 
wheezing.
- Please take all your other medications as they have been 
prescribed to you. Please make special note of the medications 
we have stopped - including Coumadin, Metoprolol, and Clonidine.
- Please keep your upcoming follow-up appointments with your PCP 
and Dr. ___ will arrange for you to have an ultrasound of 
your heart as an outpatient.
- It is important that you speak with your primary ___ doctor 
about scheduling a repeat sleep study and mask fitting to treat 
your obstructive sleep apnea (OSA).

We wish you well,
Your ___ ___ Team
 
Followup Instructions:
___